US06479487B1
1-(Cyclopropylmethyl)-4-piperidone oxime is prepared from 1-(cyclopropylmethyl)-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-(cyclopropylmethyl)-4-piperidone | C1(CC1)CN1CCC(CC1)=O | C9H15NO
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-(Cyclopropylmethyl)-4-piperidone oxime | C1(CC1)CN1CCC(CC1)=NO | C9H16N2O
